US06774130B2
To a stirring suspension of 7-methylxanthine (2.54 g, 15.3 mmol) in dimethylsulfoxide (80 ml) was added sodium hydride (0.37 mg, 15.3 mmol) in one portion. After stirring for 30 minutes, freshly prepared furfuryl bromide (2.5 g, 15.3 mmol) was added neat. After stirring at room temperature for 18 hours, the reaction was quenched by addition of water (150 ml). Saturated aqueous sodium chloride solution (30 ml) was added and the mixture was extracted with chloroform (4×50 ml). The combined extracts were washed with saturated aqueous sodium bicarbonate solution (3×50 ml), with saturated aqueous sodium chloride solution (2×50 ml) and dried over a mixture of sodium sulfate and activated charcoal. After filtration through a pad of celite, the solvent was evaporated under reduced pressure. The residue was treated with ethyl acetate. The solid was filtered, rinsed with cold ethyl acetate (2×25 ml) and vacuum dried to give 3-(2-furylmethyl)-7-methylxanthine (0.54 g, 14% yield) as a beige solid.

reactant | 7-methylxanthine | 15.3 mmol, 2.54 g | CN1C=NC=2NC(NC(C12)=O)=O | C6H6N4O2
reactant | sodium hydride | 15.3 mmol, 0.37 mg | [H-].[Na+]
reactant | furfuryl bromide | 15.3 mmol, 2.5 g | C(C1=CC=CO1)Br | C5H5BrO
solvent | dimethylsulfoxide | 80 ml | CS(=O)C | C2H6OS
product | 3-(2-furylmethyl)-7-methylxanthine | 0.54 g, 14% yield | O1C(=CC=C1)CN1C(NC(C=2N(C=NC12)C)=O)=O | C11H10N4O3
